US09326516B2
1-(2-Hydroxy-1-phenylethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C19)
The title compound was prepared with 2-amino-2-phenylethanol and 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.36 g, quantitative): 1H NMR (300 MHz, CDCl3) δ 8.05 (s, 1H), 7.65 (d, J=8.4 Hz, 2H), 7.38 (d, J=4.6 Hz, 1H), 7.30 (d, J=8.5 Hz, 2H), 7.20 (d, J=8.6 Hz, 2H), 6.88-6.61 (m, 8H), 6.43 (d, J=7.9 Hz, 1H), 5.22-4.90 (m, 1H), 3.46-3.28 (m, 2H); ESIMS m/z 484 ([M+H]+).

reactant | 2-amino-2-phenylethanol | NC(CO)C1=CC=CC=C1 | C8H11NO
reactant | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
product | 1-(2-Hydroxy-1-phenylethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C24H20F3N5OS
